US05378728
4-(2,2-dimethyl-1-oxopropyl)-N-methoxy-N-[4-(2,2-dimethyl-1-oxopropyl)-benzoyl]-benzamide
To a suspension of 0.64 grams(80 mmol) of lithium hydride in 150 ml of toluene, 9.4 grams (40 mmol) of solid 4- (2,2-dimethyl-1-oxopropyl)-N-methoxybenzamide is added portion-wise at room temperature and stirred for 1 1/2 hours. To this suspension, 9.93 grams (44.2 mmol) of 4- (2,2-dimethyl-1-oxopropyl)-benzoyl chloride dissolved in 50 ml of toluene is added at room temperature. The reaction mixture is stirred for 60 hours and then heated at 65°-70° C. for 22 hours. The mixture is poured into 250 ml. of cold pH7 phosphate buffer under nitrogen and the aqueous phase is then separated and extracted twice with t-butyl methyl ether. The organic layers are washed with dilute sodium bicarbonate solution and after drying over magnesium sulfate, the organic phase is evaporated to dryness. The crude product is crystallized from t-butyl methyl ether/heptane and then recrystallized 3 times from toluene/heptane. After each recrystallization, the nugget-like crystals, enriched in the desired product, are physically separated from the powdery crystals to yield the title compound (m.p. 103°-105 ° C. ).

reactant | lithium hydride | 80 mmol, 0.64 grams | [H-].[Li+]
reactant | 4- (2,2-dimethyl-1-oxopropyl)-N-methoxybenzamide | CC(C(=O)C1=CC=C(C(=O)NOC)C=C1)(C)C | C13H17NO3
reactant | 4- (2,2-dimethyl-1-oxopropyl)-benzoyl chloride | 44.2 mmol, 9.93 grams | CC(C(=O)C1=CC=C(C(=O)Cl)C=C1)(C)C | C12H13ClO2
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2,2-dimethyl-1-oxopropyl)-N-methoxy-N-[4-(2,2-dimethyl-1-oxopropyl)-benzoyl]-benzamide | CC(C(=O)C1=CC=C(C(=O)N(C(C2=CC=C(C=C2)C(C(C)(C)C)=O)=O)OC)C=C1)(C)C | C25H29NO5
